US03978121
F. 5-chloro-3-dimethylsulfamoyl-5H-dibenzo[a,d]cycloheptene
A solution of 1.0 g. (0.00317 mole) of 3-dimethylsulfamoyl-5H-dibenzo[a,d]cyclohepten-5-ol in a mixture of 2 ml. of dry dioxane and 2 ml. of absolute ether is cooled in ice and saturated with dry hydrogen chloride. The mixture is allowed to stand at room temperature for 5 hours and then is refrigerated overnight. The white crystalline product is collected, washed with petroleum ether, and dried in a vacuum desiccator over calcium chloride. The yield of 5-chloro-3-dimethylsulfamoyl-5H-dibenzo[a,d]cycloheptene is 600 mg., m.p. 139.5°-143.5°C. Dilution of the mother liquor with petroleum ether gives a second crop which is recrystallized from a mixture of ether and petroleum ether affording 250 mg., m.p. 138.5°-142.5°C.

reactant | 3-dimethylsulfamoyl-5H-dibenzo[a,d]cyclohepten-5-ol | 0.00317 mole | CN(S(=O)(=O)C=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)O)C1)C | C17H17NO3S
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 5-chloro-3-dimethylsulfamoyl-5H-dibenzo[a,d]cycloheptene | ClC1C2=C(C=CC3=C1C=C(C=C3)S(N(C)C)(=O)=O)C=CC=C2 | C17H16ClNO2S
